US07183411B2
In Scheme 13, commercially available 5-nitroisoquinoline is aminated with hydroxylamine hydrochloride and sodium hydroxide in ethanol at 50° C. to yield the 5-nitro-isoquinolin-8-ylamine, which may be diazotized with a mixture of sodium nitrite in a strong acid such as hydrochloric, sulfuric or hydrofluoroboric acid. The diazonium salt may be heated with an appropriate copper salt such a copper chloride, copper bromide or copper cyanide to yield the 8-Cl, 8-Br or 8-CN nitro isoquinolines respectively. The diazonium salt may also be heated in with potassium iodide to yield the 8-iodo intermediate or heated in the presence of an aqueous acid such as sulfuric acid to yield the 8-OH nitroisoquinoline. The tetrafluoroborate diazonium salt may be heated to yield the 8-F nitroisoquinoline. In addition, the diazonium salt may be reacted with a sulfur nucleophile to yield the 8-thioalkyl nitroisoquinoline which may be further oxidized to the 8-sulfoxide or 8-sulfone. Any of the nitroisoquinolines described above may then be reduced by hydrogenation with a suitable catalyst or another suitable reducing agent such as tin(II) chloride and then further elaborated by the chemistry illustrated in Schemes 5 and 6 to the target ureas.

reactant | 5-nitroisoquinoline | [N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | C9H6N2O2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-nitro-isoquinolin-8-ylamine | [N+](=O)([O-])C1=C2C=CN=CC2=C(C=C1)N | C9H7N3O2
